US06818767B2
In analogy to example 6 there was prepared: on reaction of 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol with 4-(2-chloroethyl)-morpholine hydrochloride, whereby the product was isolated as free base, 2-methyl-7-(2-morpholin-4-yl-ethoxy)-4-pyrrolidin-1-yl-quinoline as a brown solid. ISP mass spectrum, m/e: 342.3 (M+1 calculated for C20H27N3O2: 342).

reactant | 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)O | C14H16N2O
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | Cl.ClCCN1CCOCC1
product | 2-methyl-7-(2-morpholin-4-yl-ethoxy)-4-pyrrolidin-1-yl-quinoline | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)OCCN1CCOCC1 | C20H27N3O2
